US08217064B2
Ethyl 2-(5-chloro-6-(2,2,2-trifluoroethoxy)-4′-(trifluoromethyl)biphenyl-3-yl)acetate (0.8 g, 1.8 mmol) was dissolved in anhydrous DMF (40 mL), NaH (60% wt. in paraffin oil, 0.052 g, 2.18 mmol) was added at 0° C. The reaction mixture was stirred for 30 min at room temperature and cyclopentyl bromide (0.298 g, 1.99 mmol) was added drop wise at 0° C. The reaction mixture was stirred an additional 1 h at 0° C. and saturated NH4Cl solution (10 mL) was added. The reaction mixture was extracted with EtOAc (3×50 mL) and the combined organic phases were washed with water (3×20 mL) and brine (20 mL), and dried over MgSO4. The volatiles were removed under reduced pressure and the residue was purified by flash column chromatography to yield compound ethyl 2-(5-chloro-6-(2,2,2-trifluoroethoxy)-4′-(trifluoromethyl)biphenyl-3-yl)-2-cyclopentylacetate (0.4 mg) as a thick liquid.

reactant | Ethyl 2-(5-chloro-6-(2,2,2-trifluoroethoxy)-4′-(trifluoromethyl)biphenyl-3-yl)acetate | 1.8 mmol, 0.8 g | ClC=1C=C(C=C(C1OCC(F)(F)F)C1=CC=C(C=C1)C(F)(F)F)CC(=O)OCC | C19H15ClF6O3
reactant | NaH | 2.18 mmol, 0.052 g | [H-].[Na+]
reactant | cyclopentyl bromide | 1.99 mmol, 0.298 g | C1(CCCC1)Br | C5H9Br
reactant | NH4Cl | 10 mL | [NH4+].[Cl-]
solvent | DMF | 40 mL | CN(C)C=O | C3H7NO
product | ethyl 2-(5-chloro-6-(2,2,2-trifluoroethoxy)-4′-(trifluoromethyl)biphenyl-3-yl)-2-cyclopentylacetate | 0.4 mg | ClC=1C=C(C=C(C1OCC(F)(F)F)C1=CC=C(C=C1)C(F)(F)F)C(C(=O)OCC)C1CCCC1 | C24H23ClF6O3
